US05866612
Preparation of Intermediate tert-butyl-N-(3-(aminomethyl) benzyl)carbamate
10 g (73.42 mmol) of m-xylenediamine was added to 5.1 ml (36.71 mmol) of triethylamine and 200 ml of anhydrous methanol. To this solution at 0° C. was added dropwise over 60 minutes a solution of 8.0 g (36.71 mmol) of di-tert-butyldicarbonate in 60 mL of tetrahyrofuran (anhydrous). The solution was stirred an additional two hours at 0° C., filtered, and concentrated to dryness. The crude material was purified by silica gel chromatography (230-400 mesh silica gel, 250 g). The column was initially eluted with 20% methanol in methylene chloride, then methylene chloride. The crude product was then loaded onto the column and eluted with methanol/ methylene chloride/ ammonium hydroxide (5/95/0.5 to 15/85/0.5). Product fractions were concentrated to yield 5.28 g (30%) of a thick, viscous yellow oil. TLC: 10% methanol in methylene chloride (0.5% ammonium hydroxide) on silica gel, Rf=0.7. Mass Spectrum (CI) 237.1 (MH+, 100%), 1H NMR (200 MHz, CDCl3) δ 7.35-7.15 (m, 4H), 4.9 (br. s, 1H), 4.3 (m, 2H), 3.85 (m, 2H), 1.6 (s, 3H).

reactant | m-xylenediamine | 73.42 mmol, 10 g | C=1(C(=C(C(=CC1)N)C)N)C | C8H12N2
reactant | triethylamine | 36.71 mmol, 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 200 ml | CO | CH4O
reactant | di-tert-butyldicarbonate | 36.71 mmol, 8.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahyrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-(3-(aminomethyl) benzyl)carbamate | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CN)=O | C13H20N2O2
